US09084425B2
Step 3: 3-Oxocyclohex-1-en-1-yl 4-cyano-4-(3-fluorophenyl)-3-(4-fluorophenyl)butanoate
1.79 g (15 mmol) of thionyl chloride were added to 0.452 g (1.5 mmol) of 4-cyano-3-(4-fluorophenyl)-4-(3-fluorophenyl)butanoic acid, and the mixture was stirred at 80° C. for 1.5 h. Excess thionyl chloride was removed under reduced pressure. The reaction mixture concentrated in this manner (which contains acid chloride) was dissolved in 3 ml of dichloromethane and, at 0° C., added dropwise (about 30 min) to a mixture of 0.252 g (2.25 mmol) of 1,3-cyclohexanedione and 0.304 g (3 mmol) of triethylamine in dichloromethane (10 ml). After 3 h of stirring at 25° C., the solvent was removed under reduced pressure, the residue was taken up in ethyl acetate and the mixture was washed twice with in each case 25 ml of water. The combined organic phases were dried over sodium sulphate and the solvent was removed under reduced pressure.

reactant | thionyl chloride | 15 mmol, 1.79 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-cyano-3-(4-fluorophenyl)-4-(3-fluorophenyl)butanoic acid | 1.5 mmol, 0.452 g | C(#N)C(C(CC(=O)O)C1=CC=C(C=C1)F)C1=CC(=CC=C1)F | C17H13F2NO2
reactant | 1,3-cyclohexanedione | 2.25 mmol, 0.252 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | triethylamine | 3 mmol, 0.304 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-Oxocyclohex-1-en-1-yl 4-cyano-4-(3-fluorophenyl)-3-(4-fluorophenyl)butanoate | C(#N)C(C(CC(=O)OC1=CC(CCC1)=O)C1=CC=C(C=C1)F)C1=CC(=CC=C1)F | C23H19F2NO3
